US05998433
b) Synthesis of N,N-diethyl-[6-(4-phenylbutoxycarbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride
N,N-Diethyl-[6-(4-phenylbutoxycarbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine 0.198 g was dissolved in 2 ml of methanol; hydrogen chloride in methanol was added in excess, followed by stirring. This reaction mixture was concentrated to yield the desired product.

reactant | N,N-Diethyl-[6-(4-phenylbutoxycarbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine | 0.198 g | C(C)N(CC)CC1=CC2=C(CN(CC2)C(=O)OCCCCC2=CC=CC=C2)O1 | C23H32N2O3
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | N,N-diethyl-[6-(4-phenylbutoxycarbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.C(C)N(CC)CC1=CC2=C(CN(CC2)C(=O)OCCCCC2=CC=CC=C2)O1 | InChI=1S/C23H32N2O3.ClH/c1-3-24(4-2)17-21-16-20-13-14-25(18-22(20)28-21)23(26)27-15-9-8-12-19-10-6-5-7-11-19;/h5-7,10-11,16H,3-4,8-9,12-15,17-18H2,1-2H3;1H
